US08106064B2
3-(3-{5-Ethyl-3-[2-fluoro-6-(4-methoxy-benzylamino)-pyridin-4-ylmethyl]-2,6-dioxo-1,2,3,6-tetrahydro-pyrimidine-4-carbonyl}-5-methyl-phenyl)-acrylonitrile (126):
To a stirred solution of 2-fluoro-6-(p-methoxybenzylamino)-4-pyridine-methanol (262 mg, 1 mmol) in chloroform (10 ml) at 0° C. (ice bath), was added triethylamine (210 μl, 1.5 mmol) followed by methanesulfonyl chloride (90 μl, 1.2 mmol). After stirring for 1.5 hr., the mixture was diluted with dichloromethane, washed with aqueous saturated sodium bicarbonate solution, dried with anhydrous magnesium sulfate, filtered, and evaporated in vacuo. The residue was further dried in high vacuo and mixed with 3-[3-(5-ethyl-2,6-dioxo-1,2,3,6-tetrahydro-pyrimidine-4-carbonyl)-5-methyl-phenyl]-acrylonitrile (323 mg, 1 mmol), anhydrous powdered potassium carbonate (138 mg, 1 mmol), lithium iodide (134 mg, 1 mmol). Anhydrous DMF (5 ml) was then added into the mixture and stirred for overnight at room temperature. The mixture was evaporated in vacuo. The residue was dissolved in methanol-dichloromethane (1:9), filtered through celite pad, and evaporated in vacuo to give a light yellow foam. The crude product was purified by silica gel column chromatography (eluent, EA:hexanes (1:2); The fraction of Rf=0.11 was collected.) to afford 232 mg (42%) of a pale yellow solid.

reactant | 2-fluoro-6-(p-methoxybenzylamino)-4-pyridine-methanol | 1 mmol, 262 mg | FC1=NC(=CC(=C1)CO)NCC1=CC=C(C=C1)OC | C14H15FN2O2
reactant | triethylamine | 1.5 mmol, 210 μl | C(C)N(CC)CC | C6H15N
reactant | methanesulfonyl chloride | 1.2 mmol, 90 μl | CS(=O)(=O)Cl | CH3ClO2S
reactant | 3-[3-(5-ethyl-2,6-dioxo-1,2,3,6-tetrahydro-pyrimidine-4-carbonyl)-5-methyl-phenyl]-acrylonitrile | 1 mmol, 323 mg | C(C)C1=C(NC(NC1=O)=O)C(=O)C=1C=C(C=C(C1)C)C=CC#N | C17H15N3O3
reactant | potassium carbonate | 1 mmol, 138 mg | C([O-])([O-])=O.[K+].[K+]
reactant | lithium iodide | 1 mmol, 134 mg | [I-].[Li+]
solvent | chloroform | 10 ml | C(Cl)(Cl)Cl | CHCl3
solvent | dichloromethane | ClCCl | CH2Cl2
solvent | DMF | 5 ml | CN(C)C=O | C3H7NO
product | 3-(3-{5-Ethyl-3-[2-fluoro-6-(4-methoxy-benzylamino)-pyridin-4-ylmethyl]-2,6-dioxo-1,2,3,6-tetrahydro-pyrimidine-4-carbonyl}-5-methyl-phenyl)-acrylonitrile | 232 mg, 42% | C(C)C1=C(N(C(NC1=O)=O)CC1=CC(=NC(=C1)NCC1=CC=C(C=C1)OC)F)C(=O)C=1C=C(C=C(C1)C)C=CC#N | C31H28FN5O4
